US07618978B2
N-(1S, 2R)-{1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(5R,2R)-5-pentyloxy-piperidin-2-yl]-ethyl}-acetamide hydrochloride
Stir N-(1S,2R)-{1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(5R,2R)-5-pent-4-enyloxy-piperdin-2-yl]-ethyl}-acetamide hydrochloride (0.02 g, 0.04 mmol) and 10% Palladium on carbon (0.004 g, 0.004 mmol) in 2 mL methanol under a balloon of hydrogen at room temperature until all starting material is consumed. Filter the suspension through a pad of filtering agent and wash with methanol. Concentrate under reduced pressure to give the desired compound (0.015 g, 88%).

reactant | N-(1S,2R)-{1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(5R,2R)-5-pent-4-enyloxy-piperdin-2-yl]-ethyl}-acetamide hydrochloride | 0.04 mmol, 0.02 g | Cl.FC=1C=C(C[C@@H]([C@@H]([C@@H]2NC[C@@H](CC2)OCCCC=C)O)NC(C)=O)C=C(C1)F
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on carbon | 0.004 mmol, 0.004 g | [Pd] | Pd
solvent | methanol | 2 mL | CO | CH4O
product | N-(1S, 2R)-{1-(3,5-Difluoro-benzyl)-2-hydroxy-2-[(5R,2R)-5-pentyloxy-piperidin-2-yl]-ethyl}-acetamide hydrochloride | 0.015 g, 88% | Cl.FC=1C=C(C[C@@H]([C@@H]([C@@H]2NC[C@@H](CC2)OCCCCC)O)NC(C)=O)C=C(C1)F | InChI=1S/C21H32F2N2O3.ClH/c1-3-4-5-8-28-18-6-7-19(24-13-18)21(27)20(25-14(2)26)11-15-9-16(22)12-17(23)10-15;/h9-10,12,18-21,24,27H,3-8,11,13H2,1-2H3,(H,25,26);1H/t18-,19-,20+,21-;/m1./s1
